US07745414B2
4-(β-D-glucopyranos-1-yl)-2-(4-methylsulfinyl-benzyl)-benzonitrile
35% Hydrogen peroxide in water (48 μL) is added to 4-(β-D-glucopyranos-1-yl)-2-(4-methylsulfanyl-benzyl)-benzonitrile (83 mg) in 1,1,1,3,3,3-hexafluoroisopropanol (2 mL). The resulting solution is stirred at ambient temperature for 1 h and then quenched by the addition of aqueous Na2S2O3 solution and aqueous NaHCO3 solution. The organic phase is separated and the aqueous phase is extracted with ethyl acetate. The combined organic phases are dried over sodium sulfate and the solvent is removed. The residue is chromatographed on silica gel (dichloromethane/methanol 1:0->5:1).

reactant | Hydrogen peroxide | OO | H2O2
reactant | 4-(β-D-glucopyranos-1-yl)-2-(4-methylsulfanyl-benzyl)-benzonitrile | 83 mg | O[C@]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=CC(=C(C#N)C=C1)CC1=CC=C(C=C1)SC | C21H23NO6S
solvent | water | 48 μL | O | H2O
solvent | 1,1,1,3,3,3-hexafluoroisopropanol | 2 mL | C(C(F)(F)F)(C(F)(F)F)O | C3H2F6O
product | 4-(β-D-glucopyranos-1-yl)-2-(4-methylsulfinyl-benzyl)-benzonitrile | O[C@]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=CC(=C(C#N)C=C1)CC1=CC=C(C=C1)S(=O)C | C21H23NO7S
